US08748429B2
tert-butyl (1S,2S)-1-(4-bromothiazol-5-yl)-2-(2,3-difluorophenyl)hex-5-enylcarbamate
(1S,2S)-1-(4-bromothiazol-5-yl)-2-(2,3-difluorophenyl)hex-5-en-1-amine (600 mg, 1.607 mmol) was dissolved in methylene chloride (10 mL). Boc2O (3.5 g) was added to the reaction mixture at rt. The reaction was put in the refrigerator overnight. The solvent was removed and the crude mixture was purified by silica gel flash chromatography, eluting with ethyl acetate in hexane from 0 to 45% to afford the desired product (722 mg, 95%): MS (ESI)[M+H+]=475.10. 1H NMR showed inseparable diastereomers with a ratio of 3/1.

reactant | (1S,2S)-1-(4-bromothiazol-5-yl)-2-(2,3-difluorophenyl)hex-5-en-1-amine | 1.607 mmol, 600 mg | BrC=1N=CSC1[C@H]([C@@H](CCC=C)C1=C(C(=CC=C1)F)F)N | C15H15BrF2N2S
reactant | Boc2O | 3.5 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (1S,2S)-1-(4-bromothiazol-5-yl)-2-(2,3-difluorophenyl)hex-5-enylcarbamate | 722 mg, 95% | BrC=1N=CSC1[C@H]([C@@H](CCC=C)C1=C(C(=CC=C1)F)F)NC(OC(C)(C)C)=O | C20H23BrF2N2O2S
